US04608379
2-Picoline (9.3 g, 0.1 mole) and benzyl bromide (17.1 g, 0.1 mole) were refluxed in isopropanol (50 ml) overnight. The solvent was evaporated giving an oil which was heated at 100° C. for six hours. The resulting crude oil (8.0 g, 0.03 mole) and 4-dimethylaminobenzaldehyde (4.6 g, 0.03 mole) were refluxed in methanol (50 ml) in the presence of piperidine (0.2 ml) under nitrogen for three hours. On cooling dark-coloured crystals were obtained which were collected to give 1-benzyl-2-[4-(dimethylamino)styryl]pyridinium bromide (6.8 g), melting point 250°-251° C.

reactant | 2-Picoline | 0.1 mole, 9.3 g | N1=C(C=CC=C1)C | C6H7N
reactant | benzyl bromide | 0.1 mole, 17.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-dimethylaminobenzaldehyde | 0.03 mole, 4.6 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | methanol | 50 ml | CO | CH4O
product | 1-benzyl-2-[4-(dimethylamino)styryl]pyridinium bromide | 6.8 g | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC=C1)C=CC1=CC=C(C=C1)N(C)C | InChI=1S/C22H23N2.BrH/c1-23(2)21-14-11-19(12-15-21)13-16-22-10-6-7-17-24(22)18-20-8-4-3-5-9-20;/h3-17H,18H2,1-2H3;1H/q+1;/p-1
